US08211908B2
To a solution of 1.2 g of 5-(3-hydroxypropyl)-2-((tetrahydro-2H-pyran-2-yloxy)methyl)-4H-pyran-4-one in 5 mL of ethanol, 16 mL of 25% ammonium water was added, and the mixture was heated under reflux while stirring for 9 hours 30 minutes. The solvent was distilled off under reduced pressure, and the resultant residue was purified by flash silica gel column chromatography using gradient elution with chloroform:methanol=95:5 to 90:10 to obtain 0.42 g of 5-(3-hydroxypropyl)-2-((tetrahydro-2H-pyran-2-yloxy)methyl)pyridin-4(1H)-one as a brown oily substance.

reactant | 5-(3-hydroxypropyl)-2-((tetrahydro-2H-pyran-2-yloxy)methyl)-4H-pyran-4-one | 1.2 g | OCCCC=1C(C=C(OC1)COC1OCCCC1)=O | C14H20O5
reactant | ammonium water | 16 mL | O.[NH4+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-(3-hydroxypropyl)-2-((tetrahydro-2H-pyran-2-yloxy)methyl)pyridin-4(1H)-one | 0.42 g | OCCCC=1C(C=C(NC1)COC1OCCCC1)=O | C14H21NO4
